US04675370
Preparation of crude 3-hydroxytolane
Palladium acetate (0.20 g, 8.9×10-4 mol) and tri-o-tolylphosphine (0.40 g, 1.31×10-3 mol) as well as 60 ml of NEt3 were placed in a 3-necked 100 ml round-bottomed flask equipped with a reflux condensor, a thermometer and a nitrogen adaptor. The resultant yellow mixture was then heated to reflux under N2. At about 70° C., the mixture turned deep-red but still maintained its homogeneity. While the mixture was still refluxing, 3-bromophenyl trimethylsilyl ether (7.10 g, 28.95 mmol) was introduced via the reflux column, allowing it to flow slowly along the wall of the column, into the reaction mixture. After about 15 minutes, degased phenylacetylene (3.11 g, 30.45 mmol) was added to the reaction mixture in a similar manner. As soon as the reactants were in contact, sudden rise in temperature and concomitant precipitation of white solids occurred. The color of reaction mixture became lighter as the reaction progressed. After about 3 hours, the reaction mixture was dark brown and no further change in color was observed even after 17 hours at 80° C. The cooled reaction mixture was poured into about 300 ml of water and extracted with ethyl ether (100 ml, 3×50 ml). The dark ethereal extract was subjected to rotary evaporation to afford a dark oil. About 20 ml of water was added to the dark oil and the mixture was rota-evaporated, in a 70° C-water bath for about 15 minutes. Then, 150 ml of methanol was added and rotary evaporation was resumed until all solvent was removed at 70° C. The resultant dark oil was then dried in vacuo at room temperature for 24 hrs and solidified into dark brown crude product (about 5.0g). Proton NMR (CDCl3): 5.18 (singlet, --OH), 6.71-7.67 (complex, aromatic H). The hydroxyl proton is readily exchanging with deuterium of D2O. IR(KBr): δ (OH) at 3350 cm-1 (strong and broad); δ (C≡C) at 2210 cm-1 (W). The crude product was used in the subsequent reaction without further purification.

reactant | tri-o-tolylphosphine | 1.31×10-3 mol, 0.40 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | NEt3 | 60 ml | CCN(CC)CC | C6H15N
reactant | 3-bromophenyl trimethylsilyl ether | 28.95 mmol, 7.10 g | C[Si](C)(C)OC1=CC(=CC=C1)Br | C9H13BrOSi
reactant | phenylacetylene | 30.45 mmol, 3.11 g | C1(=CC=CC=C1)C#C | C8H6
catalyst | Palladium acetate | 8.9×10-4 mol, 0.20 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 ml | O | H2O
solvent | water | about 300 ml | O | H2O
product | 3-hydroxytolane | OC=1C=C(C=CC1)C#CC1=CC=CC=C1 | C14H10O
